US04090025
1-(2-butoxyethyl)-4-phenyl-4-imidazolin-2-one
Phenacyl bromide (10 g.) in 50 ml of chloroform is added over 20 minutes to a mixture of 2-butoxyethylamine (6 g.) and triethylamine (7 g.) in 50 ml. of chloroform at 0° C. The mixture is stirred for 2 hours. Water (100 ml.) is added, the organic layer separated, cooled to 0° C. and glacial acetic acid (5 ml.), potassium cyanate (5 g.) and methanol (20 ml.) are added. The mixture is refluxed for ninety minutes, cooled, washed with saturated sodium bicarbonate solution, dried, and solvent removed to give the title product.

reactant | Phenacyl bromide | 10 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 2-butoxyethylamine | 6 g | C(CCC)OCCN | C6H15NO
reactant | triethylamine | 7 g | C(C)N(CC)CC | C6H15N
reactant | Water | 100 ml | O | H2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-butoxyethyl)-4-phenyl-4-imidazolin-2-one | C(CCC)OCCN1C(NC(=C1)C1=CC=CC=C1)=O | C15H20N2O2
